US04000305
n-Butyl-lithium (4.76ml. of a 2.1M solution in hexane) was added to a solution of dimethyl methylphosphonate (1.24g.) in dry tetrahydrofuran at -78° C. in an atmosphere of nitrogen. After 10 minutes, a solution of ethyl 3-pyridyloxyacetate (0.90g.) in dry tetrahydrofuran (5ml.) was added dropwise, and the mixture was stirred for 1 hour at -78° C. The reaction mixture was taken to pH 1-2 with 2N hydrochloric acid and the solvents were removed under reduced pressure. The residue was shaken with water (10ml.) and extracted with ether (3 × 10ml.). The extracts were discarded, and the aqueous solution was adjusted to pH 7-8 with sodium bicarbonate solution and extracted with chloroform (6 × 10ml.). The combined extracts were evaporated, to give dimethyl [2-oxo-3-(pyrid-3-yloxy)propyl]phosphonate as an oil, RF = 0.2 (10% methanol in ethyl acetate).

reactant | n-Butyl-lithium | C(CCC)[Li]
reactant | dimethyl methylphosphonate | 1.24g | CP(OC)(OC)=O | C3H9O3P
reactant | ethyl 3-pyridyloxyacetate | 0.90g | N1=CC(=CC=C1)OCC(=O)OCC | C9H11NO3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5ml | O1CCCC1 | C4H8O
product | dimethyl [2-oxo-3-(pyrid-3-yloxy)propyl]phosphonate | O=C(CP(OC)(OC)=O)COC=1C=NC=CC1 | C10H14NO5P
